US07855206B2
To a solution of 3-methylene-5-nitro-6-(2,4,5-trifluorophenyl)-3,4-dihydro-2H-pyran (798 mg, 2.94 mmol) in chloroform (42 mL) and isopropyl alcohol (7.8 mL) was added silica gel (5.1 g), and sodium borohydride (420 mg, 11.1 mmol), and the reaction mixture stirred for 30 minutes at room temperature. The reaction mixture was then quenched by dropwise addition of hydrochloric acid (6 mL, 2N) and filtered. The resulting solid residue was washed with ethyl acetate (100 mL). The combined filtrate was washed successively with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, and evaporated. The resultant amber oil (802 mg) was dissolved in tetrahydrofuran (15 mL) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 40 μL) was added. The solution was stirred for 105 minutes and then transferred to a separatory funnel containing ethyl acetate (100 mL) and 1N hydrochloric acid (50 mL). The organic layer was washed with brine and the aqueous layer extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to yield a crude product which was purified by flash chromatography (silica, 8-10% ether in hexane) to yield trans-5-methylene-3-nitro-2-(2,4,5trifluorophenyl)tetrahydro-2H-pyran. A portion of this product (388 mg) was resolved by HPLC (ChiralCel OD, 1.5% isopropyl alcohol in heptane) to yield the slower-moving enantiomer, (2R,3S)-5-methylene-3-nitro-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran.

reactant | 3-methylene-5-nitro-6-(2,4,5-trifluorophenyl)-3,4-dihydro-2H-pyran | 2.94 mmol, 798 mg | C=C1COC(=C(C1)[N+](=O)[O-])C1=C(C=C(C(=C1)F)F)F | C12H8F3NO3
reactant | sodium borohydride | 11.1 mmol, 420 mg | [BH4-].[Na+]
solvent | chloroform | 42 mL | C(Cl)(Cl)Cl | CHCl3
solvent | isopropyl alcohol | 7.8 mL | C(C)(C)O | C3H8O
product | trans-5-methylene-3-nitro-2-(2,4,5trifluorophenyl)tetrahydro-2H-pyran | C=C1C[C@H]([C@@H](OC1)C1=C(C=C(C(=C1)F)F)F)[N+](=O)[O-] | C12H10F3NO3
